US03962307
5-Bromo-2-chloromethyl-3,6-diisopropylhydroquinone
Two hundred seventy-three parts of 3-bromo-2,5-diisopropylhydroquinone is allowed to react with 130 parts of chloromethylmethyl ether and 80 parts of stannic chloride in 400 parts of carbon disulfide under general conditions set forth in "Organic Reactions", Vol. 1, p. 68 and 69. The reaction mixture is poured on ice, and the organic layer is separated and dried over anhydrous calcium sulfate. The solvent is allowed to evaporate and the residue is crystallized to give a pure sample of the title compound. Chloromethylation of the following monohalo- or dihalodialkylhydroquinones or resorcinols gives the corresponding chloromethyl derivatives.

reactant | 3-bromo-2,5-diisopropylhydroquinone | BrC=1C(=C(O)C=C(C1O)C(C)C)C(C)C | C12H17BrO2
reactant | chloromethylmethyl ether | ClCOC | C2H5ClO
solvent | carbon disulfide | C(=S)=S | CS2
product | 5-Bromo-2-chloromethyl-3,6-diisopropylhydroquinone | BrC=1C(=C(C(=C(O)C1C(C)C)CCl)C(C)C)O | C13H18BrClO2
